US06194406B1
1-(3,4,5-Trimethoxybenzyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-(4-fluorophenylmethyl)-2-oxopyrrolidine
Combine 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-3-(2-methanesulfonyloxyethyl)-2-oxopyrrolidine (0.34 g, 0.63 mmol) and 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt (0.35 g, 0.63 mmol), and N,N-diisopropylethylamine (0.33 g, 2.5 mmol) in acetonitrile (10 mL). Heat to reflux. After 12 hours, cool and partition the reaction mixture between dichloromethane and a saturated aqueous ammonium chloride solution. Separate the layers and extract the organic layer with a saturated aqueous sodium bicarbonate solution. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on a short column of silica gel eluting with 2% triethylamine/5% methanol/ethyl acetate to give the title compound: Rf=0.39 (silica gel, 2% triethylamine/10% methanol/ethyl acetate).

reactant | 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-3-(2-methanesulfonyloxyethyl)-2-oxopyrrolidine | 0.63 mmol, 0.34 g | COC=1C=C(CN2C(C(CC2)(CCOS(=O)(=O)C)CC2=CC=C(C=C2)F)=O)C=C(C1OC)OC | C24H30FNO7S
reactant | 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt | 0.63 mmol, 0.35 g | I.C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2
reactant | N,N-diisopropylethylamine | 2.5 mmol, 0.33 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1-(3,4,5-Trimethoxybenzyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-(4-fluorophenylmethyl)-2-oxopyrrolidine | COC=1C=C(CN2C(C(CC2)(CC2=CC=C(C=C2)F)CCN2CCN(CCC2)C2=NC3=C(N2CCOCC)C=CC=C3)=O)C=C(C1OC)OC | C39H50FN5O5
